US04442120
1-(2-Cyano-4-cyclobutylcarbonylamino-phenoxy)-3-tert. butylamino-propan-2-ol
7.5 gm (0.024 mol) of 1-(2-cyano-4-cyclobutylcarbonylamino-phenoxy)-3-chloro-propan-2-ol were dissolved in 80 ml of ethanol, and the solution was mixed with 8.7 gm (0.12 mol) of tert. butylamine, and the mixture was refluxed for four hours. The solvent was distilled off in vacuo, the residue was extracted by shaking with dilute hydrochloric acid with the addition of ether, and the organic phase was separated. The aqueous phase was washed with ether and made alkaline with NH4OH. The base which precipitated was extracted with ethyl acetate, and the organic phase was dried over MgSO4. The ethyl acetate was distilled off, and the crystalline residue was recrystallized twice from acetonitrile.

reactant | 1-(2-cyano-4-cyclobutylcarbonylamino-phenoxy)-3-chloro-propan-2-ol | 0.024 mol, 7.5 gm | C(#N)C1=C(OCC(CCl)O)C=CC(=C1)NC(=O)C1CCC1 | C15H17ClN2O3
reactant | tert. butylamine | 0.12 mol, 8.7 gm | C(C)(C)(C)N | C4H11N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-(2-Cyano-4-cyclobutylcarbonylamino-phenoxy)-3-tert. butylamino-propan-2-ol | C(#N)C1=C(OCC(CNC(C)(C)C)O)C=CC(=C1)NC(=O)C1CCC1 | C19H27N3O3
